US05237063
Methyl 2-(4-methoxy-6-trifluoromethoxy-2-pyrimidinylaminocarbonylaminosulfonyl)benzoate
4.8 g (0.02 mol) of 2-methoxycarbonylbenzenesulfonyl isocyanate in 10 ml of acetonitrile were added over the course of 15 minutes to a stirred mixture of 4.1 g (0.02 mol) of 2-amino-4-methoxy-6-trifluoromethoxypyrimidine and 100 ml of acetonitrile at 25° C., and the mixture was then stirred for 12 hours. The precipitate was removed (2.4 g of melting point 141°-143° C.) and then the filtrate was concentrated under reduced pressure and stirred with ether/petroleum ether, and the solid was filtered off with suction and dried. A further 4.3 g of the title compound of melting point 141°-143° C. were obtained. The total yield was 6.7 g (74.4% of theory).

reactant | 2-methoxycarbonylbenzenesulfonyl isocyanate | 0.02 mol, 4.8 g | COC(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H7NO5S
reactant | 2-amino-4-methoxy-6-trifluoromethoxypyrimidine | 0.02 mol, 4.1 g | NC1=NC(=CC(=N1)OC)OC(F)(F)F | C6H6F3N3O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | Methyl 2-(4-methoxy-6-trifluoromethoxy-2-pyrimidinylaminocarbonylaminosulfonyl)benzoate | 4.3 g | COC1=NC(=NC(=C1)OC(F)(F)F)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C15H13F3N4O7S
